US04367237
(13E)-(6RS,9α,11α,15S)-6,9-Epithio-11,15-dihydroxyprost-13-enoic acid 2-hydroxyethyl ester
(13E)-(6RS,9α,11α,15S)-6,9-Epithio-11,15-dihydroxyprost-13-enoic acid phthalid-3-yl ester from 3-hydroxyphthalide.

reactant | (13E)-(6RS,9α,11α,15S)-6,9-Epithio-11,15-dihydroxyprost-13-enoic acid phthalid-3-yl ester | C1(=O)OC(C2=CC=CC=C12)OC(CCCCC1C[C@H]2[C@H](C[C@H]([C@@H]2\C=C\[C@H](CCCCC)O)O)S1)=O | C28H38O6S
reactant | 3-hydroxyphthalide | OC1OC(=O)C2=CC=CC=C12 | C8H6O3
product | (13E)-(6RS,9α,11α,15S)-6,9-Epithio-11,15-dihydroxyprost-13-enoic acid 2-hydroxyethyl ester | OCCOC(CCCCC1C[C@H]2[C@H](C[C@H]([C@@H]2\C=C\[C@H](CCCCC)O)O)S1)=O | C22H38O5S
